US05639732
Dibenzyl phenylphosphonate:
A stirred solution of phenylphosphonic acid (1.0 g, 6.3 mmol), benzyl alcohol (1.6 ml, 15.8 mmol) and triphenylphosphine (4.2 g, 15.8 mmol) in anhydrous THF (60 ml) under N2 was treated dropwise with diethyl azodicarboxylate (2.5 ml, 15.8 mmol) over five minutes. The mixture was stirred for two hours before being concentrated under vacuum. The residue was stirred with acetone-hexane (15 ml, 1/1) at 5° C. for 1-2 hours and the resulting precipitate of triphenylphosphine oxide was collected by suction filtration and discarded. The filtrate was concentrated in vacuo and the residue was stirred a second time with acetone-hexane (15 ml, 1/1) at 5° C. for 1-2 hours to provide an additional crop of triphenylphosphine oxide following filtration. The filtrate was concentrated as before to give 5.2 g of the crude product as a nearly colorless oil. Flash chromatography (silica gel, 10-40% ethyl acetate/hexane) gave 1.6 g (76%) of the title compound as a colorless oil. NMR δ7.85-7.30 (15H, m), 5.15-5.00 (4H, m); MS: 339 m/z (M+H), 361 m/z (M+Na).

reactant | phenylphosphonic acid | 6.3 mmol, 1.0 g | C1(=CC=CC=C1)P(O)(O)=O | C6H7O3P
reactant | benzyl alcohol | 15.8 mmol, 1.6 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | triphenylphosphine | 15.8 mmol, 4.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 15.8 mmol, 2.5 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | Dibenzyl phenylphosphonate | 1.6 g, 76% | C1(=CC=CC=C1)P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C20H19O3P
